US06552188B2
Synthesis of ethyl 2-(3-methoxyphenyl)isonicotinate
3-Methoxyphenylboronic acid (1.00 g) and ethyl 2-chloroisonicotinate (1.20 g) were treated in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 3-Methoxyphenylboronic acid | 1.00 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | ethyl 2-chloroisonicotinate | 1.20 g | ClC=1C=C(C(=O)OCC)C=CN1 | C8H8ClNO2
product | ethyl 2-(3-methoxyphenyl)isonicotinate | COC=1C=C(C=CC1)C=1C=C(C(=O)OCC)C=CN1 | C15H15NO3
